US05567843
To 11.5 grams (0.05 mole) of 3-nitrophenylchloroxime are added 150 milliliters of ethanol. To the mixture are added 23.1 grams (0.15 moles) of 2-amino-4-nitrophenol. The mixture is stirred under nitrogen at about 30° C. overnight and filtered to yield 2-(m-nitrophenyl)-5-nitrobenzoxazole.

reactant | 2-amino-4-nitrophenol | 0.15 moles, 23.1 grams | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | ethanol | 150 milliliters | C(C)O | C2H6O
product | 2-(m-nitrophenyl)-5-nitrobenzoxazole | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H7N3O5
